US05753635
2-(3-Dimethylaminocarbonylphenoxy)-4-benzylamino-5-nitro-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine, a compound of formula (H) (0.29 g, 0.47 mmol) and 0.1 g granular zinc were mixed with 10 mL THF and 1.0 mL 10% aqueous HCl. The reaction was heated at 80° C. for 90 minutes. The volatiles were evaporated. Saturated aqueous NaHCO3 was added and the solution extracted with ethyl acetate (300 ml). The organic layer was dried (Na2SO4) and evaporated to afford 0.27 g of 2-(3-dimethylaminocarbonylphenoxy)-4-benzylamino-5-amino-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine, a compound of formula (J).

reactant | 2-(3-Dimethylaminocarbonylphenoxy)-4-benzylamino-5-nitro-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine | CN(C(=O)C=1C=C(OC2=NC(=C(C(=N2)NCC2=CC=CC=C2)[N+](=O)[O-])OC2=C(C=CC(=C2)C#N)OCC2=CC=CC=C2)C=CC1)C | C34H28N6O6
reactant | HCl | 1.0 mL | Cl | ClH
catalyst | zinc | 0.1 g | [Zn] | Zn
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(3-dimethylaminocarbonylphenoxy)-4-benzylamino-5-amino-6-(2-benzyloxy-5-cyanophenoxy)pyrimidine | 0.27 g | CN(C(=O)C=1C=C(OC2=NC(=C(C(=N2)NCC2=CC=CC=C2)N)OC2=C(C=CC(=C2)C#N)OCC2=CC=CC=C2)C=CC1)C | C34H30N6O4
